US07939569B1
To a vial containing copper(I) iodide (10 mg, 0.050 mmol), sodium iodide (30 mg, 0.2 mmol), cesium carbonate (114 mg, 0.35 mmol) and (S)-pyrrolidine-2-carboxylic acid (14 mg, 0.12 mmol) was added an aliquot of a stock solution of 4′-(3-bromo-benzyloxy)-4,5-difluoro-2-methoxy-biphenyl (1 ml of 0.1M in DMSO). The vial was sealed and heated to 100° C. for 15 hr. The reaction was filtered through Celite and purified by HPLC with increasing concentration of acetonitrile in water with 0.1% trifluoroacetic acid, yielding the product, (S)-1-[3-(4′,5′-difluoro-2′-methoxy-biphenyl-4-yloxymethyl)-phenyl]-pyrrolidine-2-carboxylic acid as an off white solid (11 mg, 25%). LC-MS (ES) calculated for C25H23F2NO4, 439.16; found m/z 440 [M+H]+.

reactant | sodium iodide | 0.2 mmol, 30 mg | [I-].[Na+]
reactant | cesium carbonate | 0.35 mmol, 114 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (S)-pyrrolidine-2-carboxylic acid | 0.12 mmol, 14 mg | N1[C@@H](CCC1)C(=O)O | C5H9NO2
reactant | 4′-(3-bromo-benzyloxy)-4,5-difluoro-2-methoxy-biphenyl | 0.1M, 1 ml | BrC=1C=C(COC2=CC=C(C=C2)C2=C(C=C(C(=C2)F)F)OC)C=CC1 | C20H15BrF2O2
catalyst | copper(I) iodide | 0.050 mmol, 10 mg | [Cu]I
product | (S)-1-[3-(4′,5′-difluoro-2′-methoxy-biphenyl-4-yloxymethyl)-phenyl]-pyrrolidine-2-carboxylic acid | FC1=CC(=C(C=C1F)C1=CC=C(C=C1)OCC=1C=C(C=CC1)N1[C@@H](CCC1)C(=O)O)OC | C25H23F2NO4
